* C:\Users\Shachi\Desktop\LTspice_ckts\Lockin_original\orig_circuit.asc
V1 Vdd 0 16 Rser=200
V2 0 Vss 16 Rser=200
R1 TIA_op N001 3.3Meg tol=5 pwr=0.25
C1 TIA_op N001 7p V=50 Rser=0.1
XU1 0 N001 Vdd Vss TIA_op TL081
R2 N001 0 50Meg tol=5 pwr=0.25
C2 Vdd 0 0.1µ V=50 Rser=0.1
C3 Vss 0 0.1µ V=50 Rser=0.1
XU2 0 N002 Vdd Vss Vtg_amp_op TL081
R3 N002 N006 1k tol=5 pwr=0.25
R4 Vtg_amp_op N002 100k tol=5 pwr=0.25
C4 Vdd 0 0.1µ V=50 Rser=0.1
C5 Vss 0 0.1µ V=50 Rser=0.1
XU3 NC_01 N004 Vtg_amp_op NC_02 N004 0 N010 N011 0 N004 Vtg_amp_op N008 N003 Vdd Vss N008 AD630
V3 N010 0 PULSE(0 5 23u 1p 1p 0.1m 1m)
C6 Vdd 0 0.1µ V=50 Rser=0.1
C7 Vss 0 0.1µ V=50 Rser=0.1
R5 Vdd N011 10k tol=5 pwr=0.25
R6 N011 0 1.2k tol=5 pwr=0.25
R7 Vdd N003 10k tol=5 pwr=0.25
C8 N001 0 588p
I1 0 N001 PULSE(0 10n 0 1p 1p 0.1m 1m) AC 10n
C12 N006 TIA_op 1µ V=50 Rser=0.1
R8 N009 N008 220k tol=5 pwr=0.25
XU5 N007 filter_op Vdd Vss filter_op TL081
R9 N005 N009 470k tol=5 pwr=0.25
R10 N007 N005 470k tol=5 pwr=0.25
C9 N009 0 220n V=50 Rser=0.1
C10 N007 0 220n V=50 Rser=0.1
C11 filter_op N005 220n V=50 Rser=0.1
R11 out filter_op 6.8k
C13 out 0 10µ
.tran 0 20m 0 5u
.optionz cshunt = 1e-15
* Transimpedance amplifier
* AC voltage gain amplifier
* Demodulator
;ac oct 100 1 10meg
.lib ad630.sub.cir
.lib C:\Users\Shachi\Documents\LTspiceXVII\TL081.sub
.backanno
.end
